US06992087B2
Preparation of N-(3,4-dihydro-2H-chromen-4-yl)-5-(2,4-dimethylphenyl)-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-N-(3,4-dihydro-2H-chromen-4-yl)-3,6-diethylpyrazin-2-amine, ethylene glycol dimethyl ether, 2,4-dimethyl phenyl boronic acid and tetrakis(triphenylphosphine) palladium and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.38, 7.22, 7.11-6.90, 5.38, 4.58, 4.31, 2.68, 2.53, 2.37, 2.26, 2.14, 1.25-1.15; HRMS (FAB) calcd for C25H29N3O+H 388.2389, found 388.2383.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-N-(3,4-dihydro-2H-chromen-4-yl)-3,6-diethylpyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCOC2=CC=CC=C12)CC | C17H20BrN3O
reactant | 2,4-dimethyl phenyl boronic acid | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | N-(3,4-dihydro-2H-chromen-4-yl)-5-(2,4-dimethylphenyl)-3,6-diethylpyrazin-2-amine | O1CCC(C2=CC=CC=C12)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)C)C)CC | C25H29N3O
